US08835428B2
Step 2: 3-[3-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carboxylic acid ethyl ester
The title compound was prepared by reacting 3-(3-amino-phenyl)-isoxazole-5-carboxylic acid ethyl ester with 2-chloro-6-fluoro-benzothiazole as described in Example 1, step 3. The solid was separated, filtered, washed with EtOH and dried to give the title compound in 90% yield. Mass (ES+), 384 (M++1); IR (KBr): 3423 (br), 2666 (br), 1723, 1629, 1598; 1H NMR (DMSO-d6) δ: 1.33 (t, 3H), 4.39 (q, 2H), 7.15 (m, 1H), 7.52 (m, 1H), 7.61 (m, 2H), 7.82 (s, 1H), 7.74 (m, 1H), 7.97 (m, 1H), 8.34 (m, 1H), 10.97 (br, 1H).

reactant | 3-(3-amino-phenyl)-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC(=CC=C1)N | C12H12N2O3
reactant | 2-chloro-6-fluoro-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)F | C7H3ClFNS
product | 3-[3-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC(=CC=C1)NC=1SC2=C(N1)C=CC(=C2)F | C19H14FN3O3S
